US07449466B2
Production Example 3 was repeated except that 1-(4-methoxyphenyl)piperazine dihydrochloride and isovaleryl chloride were replaced with 1-(2,5-difluoro-4-methoxyphenyl)-piperazine (228 mg) and decanoyl chloride (205 μL), respectively, to provide crude 1-decanoyl-4-(2,5-difluoro-4-methoxyphenyl)piperazine (371 mg).

reactant | 1-(4-methoxyphenyl)piperazine dihydrochloride | Cl.Cl.COC1=CC=C(C=C1)N1CCNCC1
reactant | isovaleryl chloride | C(CC(C)C)(=O)Cl | C5H9ClO
reactant | 1-(2,5-difluoro-4-methoxyphenyl)-piperazine | 228 mg | FC1=C(C=C(C(=C1)OC)F)N1CCNCC1 | C11H14F2N2O
solvent | decanoyl chloride | 205 μL | C(CCCCCCCCC)(=O)Cl | C10H19ClO
product | 1-decanoyl-4-(2,5-difluoro-4-methoxyphenyl)piperazine | 371 mg | C(CCCCCCCCC)(=O)N1CCN(CC1)C1=C(C=C(C(=C1)F)OC)F | C21H32F2N2O2
